US07642264B2
2-(4-Iodo-imidazol-1-yl)-4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-6-(3-methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-pyrimidine (example A.38) (2.04 g, 6.0 mmol) and commercially available 4-iodo-imidazole (1.28 g, 6.6 mmol) according to the general procedure IVa. Obtained as an off-white solid (2.83 g, 95%). MS (ISP) 499.3 [(M+H)+]; mp 190° C.

reactant | 2-chloro-6-(3-methyl-4-trifluoromethyl-phenyl)-4-trifluoromethyl-pyrimidine | 6.0 mmol, 2.04 g | ClC1=NC(=CC(=N1)C(F)(F)F)C1=CC(=C(C=C1)C(F)(F)F)C | C13H7ClF6N2
reactant | 4-iodo-imidazole | 6.6 mmol, 1.28 g | IC=1N=CNC1 | C3H3IN2
product | 2-(4-Iodo-imidazol-1-yl)-4-(3-methyl-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | IC=1N=CN(C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)C)C(F)(F)F | C16H9F6IN4
